US06346545B1
trans-N-Methyl-4-[4-(piperidinomethyl)phenyl]cyclohexylamine
cis/trans-N-methyl-4-[4-(morpholinomethyl)phenyl]cyclohexylamine, from 4-phenylcyclohexanone and morpholine; colourless solid; Rf values 0.26 and 0.48 (aluminium oxide, petroleum ether/ethyl acetate=5:1, v:v)

reactant | trans-N-methyl-4-[4-(morpholinomethyl)phenyl]cyclohexylamine | CN[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CN1CCOCC1 | C18H28N2O
reactant | 4-phenylcyclohexanone | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | aluminium oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
product | trans-N-Methyl-4-[4-(piperidinomethyl)phenyl]cyclohexylamine | CN[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CN1CCCCC1 | C19H30N2
